US07842696B2
DIPEA (83.75 mg, 0.1 mL, 0.64 mmol) was added to a stirred solution of N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamic acid (100 mg, 0.21 mmol) in DMF (1 mL). HOBT (29.26 mg, 0.21 mmol) and EDCI (41.4 mg, 0.21 mmol) were then added at room temperature. After 2 minutes, cyclopentylamine (18.39 mg, 0.21 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with 5% sodium bicarbonate solution followed by brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was recrystallized from a mixture of EtOAc and ether to afford 38 mg (33% yield) of N-cyclopentyl-N′-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamide. LCMS Purity: 91.36%. 1H NMR (CDO3): δ 7.8-7.7 (m, 7H), 7.7-7.5 (m, 2H), 7.4-7.2 (m, 2H), 6.1 (d, 1H), 4.5-4.4 (q, 1H), 4.4-4.2 (m, 2H), 4.1-3.8 (m, 2H), 3.8-3.4 (m, 5H), 3.2 (m, 2H), 2.1 (m, 2H), 1.7 (m, 3H), 1.5 (m, 2H).

reactant | DIPEA | 0.64 mmol, 0.1 mL, 83.75 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamic acid | 0.21 mmol, 100 mg | O=C(CNC(C1=CC=C(C(=O)O)C=C1)=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H20F3N3O5
reactant | HOBT | 0.21 mmol, 29.26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.21 mmol, 41.4 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | cyclopentylamine | 0.21 mmol, 18.39 mg | C1(CCCC1)N | C5H11N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-cyclopentyl-N′-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-terephthalamide | 38 mg, 33% yield | C1(CCCC1)NC(C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1)=O | C27H29F3N4O4
